US07105679B2
STEP C: 5-methyl-5-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-chromeno[4,3-c]chromene-2,8-diol.
To a solution of 1-(2-{4-[2,8-bis-(tert-butyl-dimethyl-silyloxy)-5-methyl-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-phenoxy}-ethyl)-pyrrolidine (84.5 mg, 0.12 mmol) in THF (7 mL) was added tetrabutylammonium fluoride (1M in THF, 241.4 μL, 0.24 mmol). The mixture was stirred at room temperature for 40 min. Saturated NH4Cl was added followed by addition of ethyl acetate. The resulting layers were separated, the organic layer was washed with brine, and dried over MgSO4. The solvent was evaporated and the residue dried under vacuum for 2 h at room temperature to yield the title compound which was carried on to the next step without further purification.

reactant | 1-(2-{4-[2,8-bis-(tert-butyl-dimethyl-silyloxy)-5-methyl-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-phenoxy}-ethyl)-pyrrolidine | 0.12 mmol, 84.5 mg | C(C)(C)(C)[Si](OC=1C=CC=2C3=C(COC2C1)C=1C=CC(=CC1OC3(C)C3=CC=C(OCCN1CCCC1)C=C3)O[Si](C)(C)C(C)(C)C)(C)C | C41H57NO5Si2
reactant | tetrabutylammonium fluoride | 0.24 mmol, 1M, 241.4 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NH4Cl | [NH4+].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 5-methyl-5-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-chromeno[4,3-c]chromene-2,8-diol | CC1(OC=2C=C(C=CC2C=2COC=3C=C(C=CC3C21)O)O)C2=CC=C(C=C2)OCCN2CCCC2 | C29H29NO5
